.subckt fsdnq_x1 Q CK D SI SE VDD VSS
XFSDNQ_sei_P0 FSDNQ_se_b SE VDD VDD pmos w=2u l=100n
XFSDNQ_sei_N0 FSDNQ_se_b SE VSS VSS nmos w=1u l=100n
XFSDNQ_smx_MP0 FSDNQ_din SE D VDD pmos w=2u l=100n
XFSDNQ_smx_MN0 FSDNQ_din FSDNQ_se_b D VSS nmos w=1u l=100n
XFSDNQ_smx_MP1 FSDNQ_din FSDNQ_se_b SI VDD pmos w=2u l=100n
XFSDNQ_smx_MN1 FSDNQ_din SE SI VSS nmos w=1u l=100n
XFSDNQ_ck_P0 FSDNQ_ck_b CK VDD VDD pmos w=2u l=100n
XFSDNQ_ck_N0 FSDNQ_ck_b CK VSS VSS nmos w=1u l=100n
XFSDNQ_m_in_P FSDNQ_m_n1 FSDNQ_ck_b FSDNQ_din VDD pmos w=2u l=100n
XFSDNQ_m_in_N FSDNQ_m_n1 CK FSDNQ_din VSS nmos w=1u l=100n
XFSDNQ_m_i1_P0 FSDNQ_m_n2 FSDNQ_m_n1 VDD VDD pmos w=2u l=100n
XFSDNQ_m_i1_N0 FSDNQ_m_n2 FSDNQ_m_n1 VSS VSS nmos w=1u l=100n
XFSDNQ_m_i2_P0 FSDNQ_m_n1 FSDNQ_m_n2 VDD VDD pmos w=2u l=100n
XFSDNQ_m_i2_N0 FSDNQ_m_n1 FSDNQ_m_n2 VSS VSS nmos w=1u l=100n
XFSDNQ_m_fb_P FSDNQ_m_n1 CK FSDNQ_m_n2 VDD pmos w=2u l=100n
XFSDNQ_m_fb_N FSDNQ_m_n1 FSDNQ_ck_b FSDNQ_m_n2 VSS nmos w=1u l=100n
XFSDNQ_m_o_P0 FSDNQ_qm FSDNQ_m_n2 VDD VDD pmos w=2u l=100n
XFSDNQ_m_o_N0 FSDNQ_qm FSDNQ_m_n2 VSS VSS nmos w=1u l=100n
XFSDNQ_s_in_P FSDNQ_s_n1 CK FSDNQ_qm VDD pmos w=2u l=100n
XFSDNQ_s_in_N FSDNQ_s_n1 FSDNQ_ck_b FSDNQ_qm VSS nmos w=1u l=100n
XFSDNQ_s_i1_P0 FSDNQ_s_n2 FSDNQ_s_n1 VDD VDD pmos w=2u l=100n
XFSDNQ_s_i1_N0 FSDNQ_s_n2 FSDNQ_s_n1 VSS VSS nmos w=1u l=100n
XFSDNQ_s_i2_P0 FSDNQ_s_n1 FSDNQ_s_n2 VDD VDD pmos w=2u l=100n
XFSDNQ_s_i2_N0 FSDNQ_s_n1 FSDNQ_s_n2 VSS VSS nmos w=1u l=100n
XFSDNQ_s_fb_P FSDNQ_s_n1 FSDNQ_ck_b FSDNQ_s_n2 VDD pmos w=2u l=100n
XFSDNQ_s_fb_N FSDNQ_s_n1 CK FSDNQ_s_n2 VSS nmos w=1u l=100n
XFSDNQ_s_o_P0 Q FSDNQ_s_n2 VDD VDD pmos w=2u l=100n
XFSDNQ_s_o_N0 Q FSDNQ_s_n2 VSS VSS nmos w=1u l=100n
.ends fsdnq_x1
